US08420629B2
Step 1. 4-(1H-pyrrol-3-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine
A mixture of 4-chloro-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine (12.9 g, 45.4 mmol) (prepared as in WO 2007/070514, Ex.65) and [1-(triisopropylsilyl)-1H-pyrrol-3-yl]boronic acid (Frontier Scientific) (10.4 g, 38.9 mmol) and sodium carbonate (4.36 g, 41.2 mmol) in 1,2-dimethoxyethane (100 mL) and water (35 mL) was degassed by purging with a stream of nitrogen for 20 minutes. Tetrakis(triphenylphosphine)palladium(0) (2.25 g, 1.94 mmol) was then added and the reaction was heated to reflux for 9 hours. As the coupling reaction proceeded, the TIPS protecting group was also slowly removed. The solvent was removed by rotary evaporation and the product was purified by flash column chromatography, eluting with a gradient from 10-50% ethyl acetate in hexanes to afford the desired product (7 g, 57%).

reactant | 4-chloro-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine | 45.4 mmol, 12.9 g | ClC=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C12H18ClN3OSi
reactant | [1-(triisopropylsilyl)-1H-pyrrol-3-yl]boronic acid | 38.9 mmol, 10.4 g | C(C)(C)[Si](N1C=C(C=C1)B(O)O)(C(C)C)C(C)C | C13H26BNO2Si
reactant | sodium carbonate | 41.2 mmol, 4.36 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | water | 35 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 1.94 mmol, 2.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1H-pyrrol-3-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine | 7 g, 57% | N1C=C(C=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
